US04178449
A mixture of 1.62 g. of 4-amino-5-imidazolecarboxamide hydrochloride, 3-dimethylamino-3'-methoxyacrylophenone, 0.82 g. of sodium acetate and 25 ml. of glacial acetic acid is refluxed for 10 hours. The mixture is evaporated to dryness and the residue worked up to give 4-(m-methoxyphenyl)imidazo[1,5-a]pyrimidine-8-carboxamide. This compound is treated as for Example 29 with trifluoroacetic anhydride to give the product of the example.

reactant | 4-amino-5-imidazolecarboxamide hydrochloride | Cl.NC=1N=CNC1C(=O)N
reactant | 3-dimethylamino-3'-methoxyacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)OC)C | C12H15NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(m-methoxyphenyl)imidazo[1,5-a]pyrimidine-8-carboxamide | COC=1C=C(C=CC1)C1=CC=NC=2N1C=NC2C(=O)N | C14H12N4O2
